US08242150B2
N-(3-chloro-4-fluorophenyl)-2-{4-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-1H-1,2,3-triazol-1-yl}-N-(2,2,2-trifluoroethyl)acetamide trifluoroacetate salt
N-(3-chloro-4-fluorophenyl)-2-{-4-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-1H-1,2,3-triazol-1-yl}acetamide (50 mg, 0.113 mmol) and KHMDS (27.1 mg, 0.136 mmol) were added to a 25-mL flask under nitrogen and DMF (3 ml) was added. Trifluoroethyl triflate (0.023 ml, 0.159 mmol) was added and the suspension stirred at room temperature for 16 h. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.1% TFA, to give the product (25 mg) as a yellow solid.

reactant | N-(3-chloro-4-fluorophenyl)-2-{-4-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-1H-1,2,3-triazol-1-yl}acetamide | 0.113 mmol, 50 mg | ClC=1C=C(C=CC1F)NC(CN1N=NC(=C1)C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C21H18ClFN6O2
reactant | KHMDS | 0.136 mmol, 27.1 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Trifluoroethyl triflate | 0.159 mmol, 0.023 ml | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(3-chloro-4-fluorophenyl)-2-{4-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-1H-1,2,3-triazol-1-yl}-N-(2,2,2-trifluoroethyl)acetamide trifluoroacetate salt | 25 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=CC1F)N(C(CN1N=NC(=C1)C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)CC(F)(F)F | InChI=1S/C23H19ClF4N6O2.C2HF3O2/c1-14-9-32(13-29-14)20-6-3-15(7-21(20)36-2)19-10-33(31-30-19)11-22(35)34(12-23(26,27)28)16-4-5-18(25)17(24)8-16;3-2(4,5)1(6)7/h3-10,13H,11-12H2,1-2H3;(H,6,7)
